US04241064
1-Carbomethoxy-4-Acetoxy-9H-Pyrido[3,4-b]Indole
Four grams of 1-carbomethoxy-4-hydroxy-9H-pyrido[3,4-b]-indole were dissolved in a mixture of 20 ml pyridine and 24 ml acetic anhydride and the solution was allowed to stand at room temperature overnight. The resultant crystals were collected by filtration and recrystallized from methanol to yield 2.9 g of the title compound. Yield 61.8% colorless prisms, m.p. 220°-221° C. Elemental analysis--found: C, 63.23%; H, 3.94%, N, 9.59%; calculated for C15H12N2O4 (mol. wt. 284): C, 63.38%; H, 4.26%; N, 9.86%. Mol. wt. (based on mass spectrum) 284. NMR (DMSO-d6): δ2.62 ppm, 3H (COCH3), 4.07 ppm, 3H (COOCH3), 8.37 ppm, 1H (3-H), 7.20-8.20 ppm, 4H, 11.85 ppm; 1H (NH). UV spectrum (methanol): 360, 300, 264, 243, 212 mμ. IR spectrum: 3380, 1760, 1675, 1242, 1222 cm-1.

reactant | 1-carbomethoxy-4-hydroxy-9H-pyrido[3,4-b]-indole | Four grams | C(=O)(OC)C1=NC=C(C2=C1NC1=CC=CC=C21)O | C13H10N2O3
reactant | acetic anhydride | 24 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-Carbomethoxy-4-Acetoxy-9H-Pyrido[3,4-b]Indole | 2.9 g | C(=O)(OC)C1=NC=C(C2=C1NC1=CC=CC=C21)OC(C)=O | C15H12N2O4
